US09108939B2
C: Diethyl 2-chloro-5-fluoro-4-nitrobenzylphosphonate
1-(Bromomethyl)-2-chloro-5-fluoro-4-nitrobenzene (6.7 g, 18.62 mmol) and triethyl phosphate (5.64 mL) were heated in an oil bath for 3 hours at 140° C. The reaction mixture was concentrated and chromatographed on silica eluting with dichloromethane/methanol (1:0-1%) to give the title compound (4.06 g).

reactant | 1-(Bromomethyl)-2-chloro-5-fluoro-4-nitrobenzene | 18.62 mmol, 6.7 g | BrCC1=C(C=C(C(=C1)F)[N+](=O)[O-])Cl | C7H4BrClFNO2
reactant | triethyl phosphate | 5.64 mL | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | Diethyl 2-chloro-5-fluoro-4-nitrobenzylphosphonate | 4.06 g | ClC1=C(CP(OCC)(OCC)=O)C=C(C(=C1)[N+](=O)[O-])F | C11H14ClFNO5P
